US06369249B1
Synthesis of N-Dodecanoylacrylamide
In a 250 ml capacity conical flask 10.9 g dodecanoyl chloride (0.05 M), 3.5 g acrylamide (0.05 M) and 50 ml acetone were placed to obtain a clear solution. The solution was stirred with a magnetic needle at room temperature. 6.5 g anhydrous aluminium chloride (0.05 M) was added and the reaction mixture was stirred at room temperature. After 5 to 10 minutes of stirring, vigorous evolution of hydrogen chloride took place which ceased after about 5 minutes. The product was isolated following the procedure described for synthesis of N-cetylacrylamide.

reactant | dodecanoyl chloride | 0.05 M, 10.9 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | acrylamide | 0.05 M, 3.5 g | C(C=C)(=O)N | C3H5NO
reactant | aluminium chloride | 0.05 M, 6.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen chloride | Cl | ClH
reactant | N-cetylacrylamide | C(CCCCCCCCCCCCCCC)NC(C=C)=O | C19H37NO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-Dodecanoylacrylamide | C(CCCCCCCCCCC)(=O)NC(C=C)=O | C15H27NO2
